US09376454B2
Step 2. Synthesis of (R)-2-Hydroxy-3-(2-1H-indol-6-yl-acetylamino)-3,4-dihydro-2H-benzo[e][1,2]oxaborinine-8-carboxylic acid
Prepared from 3-[2-(2-1H-Indol-6-yl-acetylamino)-2-(2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)-ethyl]-2-methoxy-benzoic acid tert-butyl ester and BCl3 following the procedure described in Step 2 of Example 1. The crude product was purified by reverse phase preparative HPLC and dried using lyophilization. ESI-MS m/z 365 (MH)+.

reactant | 3-[2-(2-1H-Indol-6-yl-acetylamino)-2-(2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)-ethyl]-2-methoxy-benzoic acid tert-butyl ester | C(C)(C)(C)OC(C1=C(C(=CC=C1)CC(B1OC2(C3C(C(CC2O1)C3)(C)C)C)NC(CC3=CC=C1C=CNC1=C3)=O)OC)=O | C34H43BN2O6
reactant | BCl3 | B(Cl)(Cl)Cl | BCl3
product | (R)-2-Hydroxy-3-(2-1H-indol-6-yl-acetylamino)-3,4-dihydro-2H-benzo[e][1,2]oxaborinine-8-carboxylic acid | OB1OC2=C(C[C@@H]1NC(CC1=CC=C3C=CNC3=C1)=O)C=CC=C2C(=O)O | C19H17BN2O5
